US06066641
d) 6-Amino-5-nitroso-1-(4-Picolyl)-uracil
2.6 ml of 4N sodium nitrite was added to a solution of 2.35 g of 6-amino-1-(4-picolyl)-uracil in 25 ml of water and 4 ml of 5N HCl. After 15 minutes, 10 ml of 1N sodium bicarbonate was added. The solid was collected, washed and dried to give the title compound (2.15 g).

reactant | sodium nitrite | 4N, 2.6 ml | N(=O)[O-].[Na+]
reactant | 6-amino-1-(4-picolyl)-uracil | 2.35 g | NC1=CC(NC(N1CC1=CC=NC=C1)=O)=O | C10H10N4O2
reactant | sodium bicarbonate | 1N, 10 ml | C([O-])(O)=O.[Na+]
solvent | water | 25 ml | O | H2O
solvent | HCl | 5N, 4 ml | Cl | ClH
product | 6-Amino-5-nitroso-1-(4-Picolyl)-uracil | 2.15 g | NC1=C(C(NC(N1CC1=CC=NC=C1)=O)=O)N=O | C10H9N5O3
